US20010037039A1
[3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propylamino]Guanidine Diacetate
2-[2-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]ethyl-1-methylene] hydrazinecarboximidamide acetate: A mixture of aminoguanidine hydrochloride (0.811 g, 7.33 mmol) and 3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde (1.28 g, 3.66 mmol, prepared in the preceding step) in ethanol (30 mL) was stirred overnight at ambient temperature. The mixture was concentrated in vacuo to approximately 15 mL, then dichloromethane (60 mL) was added to precipitate excess aminoguanidine hydrochloride. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in dichloromethane (30 mL) and extracted with aqueous NaOH (1.85 mL of 2 N NaOH in 90 mL water). The aqueous layer was extracted with CH2Cl2 (2×30 mL). The combined organic extracts were washed with water (50 mL) and brine (2×50 mL), dried over K2CO3, filtered, and evaporated to give the free base of the title compound (1.38 g, 93%) as a gold foam.

reactant | aminoguanidine hydrochloride | 7.33 mmol, 0.811 g | C(=N)(N)NN.Cl
reactant | 3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C17H18O6S
reactant | ethanol | 30 mL | C(C)O | C2H6O
product | [3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propylamino]Guanidine Diacetate | 1.38 g, 93% | C(C)(=O)O.C(C)(=O)O.COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCNNC(=N)N)C=C(C1)C | InChI=1S/C18H24N4O5S.2C2H4O2/c1-13-10-14(26-9-5-8-21-22-18(19)20)12-15(11-13)27-28(23,24)17-7-4-3-6-16(17)25-2;2*1-2(3)4/h3-4,6-7,10-12,21H,5,8-9H2,1-2H3,(H4,19,20,22);2*1H3,(H,3,4)
